US06713473B1
1,2,3,4-Tetrahydrocarbazole-6-carboxylic acid methyl ester (460 mg) prepared by the method described in Journal of Chemical Society, p.809 (1926) was dissolved in 2.5 mL of DMF, and the solution was added with 0.3 mL of ethyl iodide and 120 mg of sodium hydride and stirred at room temperature at 50° C. for 2 hours under a nitrogen flow. Then, the reaction mixture was added with water, neutralized with 2 N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (eluent: dichloromethane) to obtain 490 mg of N-ethyl-1,2,3,4-tetrahydrocarbazole-6-carboxylic acid methyl ester.

reactant | 1,2,3,4-Tetrahydrocarbazole-6-carboxylic acid methyl ester | 460 mg | COC(=O)C=1C=C2C=3CCCCC3NC2=CC1 | C14H15NO2
reactant | ethyl iodide | 0.3 mL | C(C)I | C2H5I
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-ethyl-1,2,3,4-tetrahydrocarbazole-6-carboxylic acid methyl ester | 490 mg | COC(=O)C=1C=C2C=3CCCCC3N(C2=CC1)CC | C16H19NO2
